US09382228B2
The exo/endo-mixture of 7-oxabicyclo[2.2.1]hept-5-ene-2-carbonitrile (4.70 g, 38.8 mmol) in EtOAc (30 mL) was dissolved in EtOAc (30 mL), treated with 10% Pd/C (0.300 g, 0.282 mmol) and hydrogenated (20 psi) for 2 h. The solids were removed via filtration, washed with EtOAc and the filtrate concentrated in vacuo to afford an exo/endo-mixture of 7-oxabicyclo[2.2.1]heptane-2-carbonitrile (4.80 g, 100%) as a colorless oil.

reactant | 7-oxabicyclo[2.2.1]hept-5-ene-2-carbonitrile | 38.8 mmol, 4.70 g | C12C(CC(C=C1)O2)C#N | C7H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.282 mmol, 0.300 g | [Pd] | Pd
product | 7-oxabicyclo[2.2.1]heptane-2-carbonitrile | 4.80 g, 100% | C12C(CC(CC1)O2)C#N | C7H9NO
